US09388189B2
(S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (150 mg, 0.28 mol) was dissolved in 10 mL methanol and 2 mL dimethylformamide. Triethylamine and palladium on carbon were added under nitrogen atmosphere and the mixture was submitted at 30 psi of hydrogen conditions for 4 h. Further catalyst was added and the mixture was hydrogenated at 30 psi for 48 h. The reaction mixture was filtered off and evaporated to dryness. The residue was purified by reverse phase using SP1® Purification System and then was purified by normal phase (0% to 100%, hexane-ethyl acetate) to give 5 mg (4%) of the title compound as a solid. Purity 99%.

reactant | (S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.28 mol, 150 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br)C2=CC(=C(C=C2)O)F | C24H19BrFN7O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | [Pd] | Pd
product | (S)-2-(1-((6-Amino-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 4% | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)C2=CC(=C(C=C2)O)F | C24H20FN7O2
